US07659401B2
Step 5: 2-Methyl-thiazolo[4,5-c]pyridine 5-oxide
2-Methyl-thiazolo[4,5-c]pyridine (2.3 g, 15.3 mmol) was dissolved in 150 ml chloroform and 3-chloroperoxybenzoic acid (4.15 g, 16.8 mmol) was added. The reaction mixture was stirred at ambient temperature for 1 hour and then evaporated. The residue was purified by flash chromatography on silica gel (dichloromethane/methanol 100:0->90:10 gradient). The desired product was obtained as a white solid (2.1 g, 83%), MS: m/e=167.2 (M+H+).

reactant | 2-Methyl-thiazolo[4,5-c]pyridine | 15.3 mmol, 2.3 g | CC=1SC2=C(C=NC=C2)N1 | C7H6N2S
reactant | 3-chloroperoxybenzoic acid | 16.8 mmol, 4.15 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Methyl-thiazolo[4,5-c]pyridine 5-oxide | CC=1SC2=C(C=[N+](C=C2)[O-])N1 | C7H6N2OS
